US06610714B2
d) Ethyl 5-cyano-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylate
Ethyl 5-{[(trifluoromethyl)sulfonyl]oxy}-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylate (0.2 g, 0.5 mmol) was mixed with Zn(CN)2 (0.82 mmol) and Pd(Ph3P)4 (56 mg, 10 mol %) in DMF (4 ml), bubbled with argon for 5 min and heated at stirring in a closed vial for 14 h at 100° C. Reaction was monitored by GC. The reaction mixture was concentrated by rotary evaporation, mixed with saturated NH4Cl and extracted into ethylacetate (3×15 ml). Organic extract was washed with water and brine, dried under Na2SO4. Concentration gave 0.12 g of product as an oil (yield 90%).

reactant | Ethyl 5-{[(trifluoromethyl)sulfonyl]oxy}-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylate | 0.5 mmol, 0.2 g | FC(S(=O)(=O)OC=1C=C2CCC3C(C2=CC1)C3C(=O)OCC)(F)F | C15H15F3O5S
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.82 mmol | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(Ph3P)4 | 56 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 5-cyano-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylate | 0.12 g, yield 90% | C(#N)C=1C=C2CCC3C(C2=CC1)C3C(=O)OCC | C15H15NO2
